US09422281B2
Ethyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1 (2H)-carboxylate was prepared from (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone and ethyl chloroformate according to the procedure outlined above for (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 341, 343 [M+1]+.

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | (S)-isopropyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC(C)C)C | C15H19BrN2O3
product | Ethyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1 (2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OCC)C | C14H17BrN2O3
